US08980875B2
By carrying out the procedure as in Step 1 of Example 10, but starting with 2 g of N-methylimidazole and 8.73 g of 4-trifluoromethylbenzyl bromide, at the reflux temperature of toluene for 2 hours, 8.4 g of 1-(4-trifluoromethylbenzyl)-3-methylimidazolium bromide are obtained in the form of an orange-yellow solid whose characteristics are the following:

reactant | N-methylimidazole | 2 g | CN1C=NC=C1 | C4H6N2
reactant | 4-trifluoromethylbenzyl bromide | 8.73 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4-trifluoromethylbenzyl)-3-methylimidazolium bromide | 8.4 g | [Br-].FC(C1=CC=C(C[N+]2=CN(C=C2)C)C=C1)(F)F | InChI=1S/C12H12F3N2.BrH/c1-16-6-7-17(9-16)8-10-2-4-11(5-3-10)12(13,14)15;/h2-7,9H,8H2,1H3;1H/q+1;/p-1
